US05199970
Preparation of methyl 2-[4-(5-trifluoromethyl-2-pyridyloxy)phenoxy]-propionate
A mixture containing 12.46 g of 2-[4-(5-trifluoromethyl-2-pyridyloxy)phenoxy]propionic acid and a catalytic amount of p-toluenesulfonic acid in 70 ml of methanol is boiled under reflux for 4 hours. After evaporating the solution to dryness, the residue is dissolved in ether and washed with sodium hydrogen carbonate solution. The ethereal layer is separated, dried over anhydrous magnesium sulfate and evaporated to dryness to give 11.5 g of product.

reactant | 2-[4-(5-trifluoromethyl-2-pyridyloxy)phenoxy]propionic acid | 12.46 g | FC(C=1C=CC(=NC1)OC1=CC=C(OC(C(=O)O)C)C=C1)(F)F | C15H12F3NO4
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | methanol | 70 ml | CO | CH4O
product | methyl 2-[4-(5-trifluoromethyl-2-pyridyloxy)phenoxy]-propionate | 11.5 g | FC(C=1C=CC(=NC1)OC1=CC=C(OC(C(=O)OC)C)C=C1)(F)F | C16H14F3NO4
